US06150373
A solution of 320 mg (0.6 mmol) of (2-(3-[5-[(2,6-dichlorophenylamino)-methyl]-2-methylthiopyrimidin-4-yl-amino]-phenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester in 40 ml of toluene was treated with 0.25 ml (1.8 mmol) of triethylamine and the resulting solution was added dropwise to a solution of phosgene (0.6 ml of a 20% solution in toluene) in a further 40 ml of toluene. The mixture was heated at reflux for 1 hour and then cooled. 80 ml of ethyl acetate and 80 ml of water were added. The organic phase was dried over magnesium sulfate, filtered and evaporated to give 350 mg (100%) of (2-[3-[3-(2,6-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethylethyl)-carbamic acid tert-butyl ester as a white solid. [Mass spectrum (ESI) MH+ =588].

reactant | (2-(3-[5-[(2,6-dichlorophenylamino)-methyl]-2-methylthiopyrimidin-4-yl-amino]-phenyl)-1,1-dimethyl-ethyl)-carbamic acid tert-butyl ester | 0.6 mmol, 320 mg | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)NC1=NC(=NC=C1CNC1=C(C=CC=C1Cl)Cl)SC)(C)C)=O | C27H33Cl2N5O2S
reactant | triethylamine | 1.8 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 80 ml | O | H2O
product | (2-[3-[3-(2,6-dichlorophenyl)-7-methylthio-2-oxo-3,4-dihydro-2H-pyrimido[4,5-d]pyrimidin-1-yl]-phenyl]-1,1-dimethylethyl)-carbamic acid tert-butyl ester | 350 mg, 100% | C(C)(C)(C)OC(NC(CC1=CC(=CC=C1)N1C(N(CC=2C1=NC(=NC2)SC)C2=C(C=CC=C2Cl)Cl)=O)(C)C)=O | C28H31Cl2N5O3S
